US06562978B1
1-tert-Butoxycarbonyl-4-(4-nitrobenzyl)piperidine
4-(4-nitrobenzyl)-1-(trifluoroacetyl)piperidine (8 g, 25.2 mmol) was dissolved in ethanol (90 mL). To the solution was added a aqueous solution of 10% sodium hydroxide (40 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added water (200 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the concentrate was dissolved in tetrahydrofuran (50 mL). To the solution was added di-tert-butyldicarbonate (5.5 g, 25 mmol) under ice cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water (200 mL), and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the titled compound (6 g) as pale yellow oily substance.

reactant | 4-(4-nitrobenzyl)-1-(trifluoroacetyl)piperidine | 25.2 mmol, 8 g | [N+](=O)([O-])C1=CC=C(CC2CCN(CC2)C(C(F)(F)F)=O)C=C1 | C14H15F3N2O3
reactant | sodium hydroxide | 40 mL | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | di-tert-butyldicarbonate | 25 mmol, 5.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 200 mL | O | H2O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 1-tert-Butoxycarbonyl-4-(4-nitrobenzyl)piperidine | 6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H24N2O4
